US09289430B2
To 3-(methyl(2-morpholinoethyl)carbamoyl)benzoic acid (1.37 g, 4.69 mmol, 1.00 equiv) in dichloromethane (17 mL) was added 2 drops of N,N-dimethylformamide followed by the addition of oxalyl dichloride (3.63 g, 28.14 mmol, 6.00 equiv). The resulting solution was stirred for 1 h at 50° C. in an oil bath then concentrated under vacuum to afford 1.41 g (87%) of 3-(methyl(2-morpholinoethyl)carbamoyl)benzoyl chloride as a gray-yellow solid.

reactant | 3-(methyl(2-morpholinoethyl)carbamoyl)benzoic acid | 4.69 mmol, 1.37 g, 1.00 equiv | CN(C(=O)C=1C=C(C(=O)O)C=CC1)CCN1CCOCC1 | C15H20N2O4
reactant | oxalyl dichloride | 28.14 mmol, 3.63 g, 6.00 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 3-(methyl(2-morpholinoethyl)carbamoyl)benzoyl chloride | 1.41 g, 87% | CN(C(=O)C=1C=C(C(=O)Cl)C=CC1)CCN1CCOCC1 | C15H19ClN2O3
